US08138187B2
4-(2-(4-(Dimethylamino)-4-phenylcyclohexyl)-1H-indol-3-yl)butanol hydrochloride, non-polar diastereomer
4-[(2-(4-Dimethylamino-4-phenylcyclohexyl)-1H-indol-3-yl)butan-1-ol (less polar diastereomer) (170 mg, 0.43 mmol) was dissolved in ethyl acetate (50 ml). Me3SiCl (108 μl, 0.86 mmol) was then added dropwise at RT and the mixture was stirred for 1 h. A white precipitate precipitated out. The precipitate was filtered off with suction, washed with ethyl acetate (2×5 ml) and then dried. Example 173 (170 mg, m.p. 223-226° C., 91%) was obtained as a white solid.

reactant | (2-(4-Dimethylamino-4-phenylcyclohexyl)-1H-indol-3-yl)butan-1-ol | CN(C1(CCC(CC1)C=1NC2=CC=CC=C2C1C(CCC)O)C1=CC=CC=C1)C | C26H34N2O
reactant | Me3SiCl | 0.86 mmol, 108 μl | [Si](C)(C)(C)Cl | C3H9ClSi
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 4-(2-(4-(Dimethylamino)-4-phenylcyclohexyl)-1H-indol-3-yl)butanol hydrochloride | Cl.CN(C1(CCC(CC1)C=1NC2=CC=CC=C2C1CCCCO)C1=CC=CC=C1)C | InChI=1S/C26H34N2O.ClH/c1-28(2)26(21-10-4-3-5-11-21)17-15-20(16-18-26)25-23(13-8-9-19-29)22-12-6-7-14-24(22)27-25;/h3-7,10-12,14,20,27,29H,8-9,13,15-19H2,1-2H3;1H
